US06573289B1
Production of 4-[Methoxy-(6-methoxynaphthalen-2-yl)methyl]-1H-imidazole
Sodium hydride (60% oil dispersion, 1.77 g) was added to a mixture of THF (200 ml) and DMF(100 ml). To the mixture was added (6-methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)methanol (20.0 g). The mixture was heated at 50 until the evolution of hydrogen ceased. The mixture was cooled to 0° C., and to the mixture was added methyl iodide (2.6 ml). The mixture was stirred for 15 min. Water was added to the reaction mixture to quench the reaction. THF was distilled off under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous solution of sodium chloride, dried and concentrated. The residue was recrystallized from ethyl acetate-hexane to give the titled compound (18.6 g) as a colorless powder.

reactant | Sodium hydride | 1.77 g | [H-].[Na+]
reactant | (6-methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)methanol | 20.0 g | COC=1C=C2C=CC(=CC2=CC1)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H28N2O2
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 2.6 ml | CI | CH3I
solvent | Water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-[Methoxy-(6-methoxynaphthalen-2-yl)methyl]-1H-imidazole | 18.6 g | COC(C=1N=CNC1)C1=CC2=CC=C(C=C2C=C1)OC | C16H16N2O2
